### PR TITLE
[Merged by Bors] - feat(Algebra/ModuleCat): lemma for projective dimension eq zero 

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Projective dimension of nontrivial projective module is zero.
And fix namespace for related lemmas.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/ModuleCat/ProjectiveDimension.lean [hunk 1]
```diff
@@ -94,3 +94,10 @@ lemma projectiveDimension_eq_of_linearEquiv (e : M ≃ₗ[R] N) :
 end
 
 end CategoryTheory
+
+lemma projectiveDimension_eq_zero_of_projective (M : ModuleCat.{v} R) [Nontrivial M]
+    [Projective M] : projectiveDimension M = 0 := by
+  apply ((projectiveDimension_le_iff M 0).mpr inferInstance).antisymm
+    ((projectiveDimension_ge_iff M 0).mpr _)
+  rw [hasProjectiveDimensionLT_zero_iff_isZero, ModuleCat.isZero_iff_subsingleton]
+  exact not_subsingleton_iff_nontrivial.mpr ‹_›
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/ProjectiveDimension.lean]: Could you add and use the following general lemma?
```lean
lemma projectiveDimension_eq_zero_iff (X : C) :
    projectiveDimension X = 0 ↔ Projective X ∧ ¬ Limits.IsZero X := by
  rw [← projectiveDimension_eq_bot_iff, projective_iff_hasProjectiveDimensionLT_one,
    ← projectiveDimension_lt_iff]
  refine ⟨fun h ↦ by simp [h], fun ⟨h₁, h₂⟩ ↦ ?_⟩
  generalize h : projectiveDimension X = d
  induction d with
  | bot => aesop
  | coe d => induction d <;> aesop
```

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/ProjectiveDimension.lean]: I think we have `<0` iff `= \bot` for `WithBot ENat`, I'll update to see whether it works correctly.

Comment (Thmoas-Guan) [reply Mathlib/Algebra/Category/ModuleCat/ProjectiveDimension.lean]: I added `Projective` iff `HasProjectiveDimensionLE _ 0` for convenience, what do you think about the current proof?

File: Mathlib/Algebra/Category/ModuleCat/ProjectiveDimension.lean [hunk 2]
```diff
@@ -94,3 +94,8 @@ lemma projectiveDimension_eq_of_linearEquiv (e : M ≃ₗ[R] N) :
 end
 
 end CategoryTheory
+
+lemma projectiveDimension_eq_zero_of_projective (M : ModuleCat.{v} R) [Nontrivial M]
```
Comment (joelriou) [inline Mathlib/Algebra/Category/ModuleCat/ProjectiveDimension.lean:112]: Could you move this declaration in the `ModuleCat` namespace? I think we should also do it for all the declarations in this file: could you do this as well, and add deprecated aliases?
